US08202858B2
1-(4-Hydroxy-piperidin-1-yl)-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one
Sodium borohydride (4 mg, 0.1 mmol) was added to a solution of 1-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperidin-4-one (Compound number 701) (50 mg, 0.11 mmol) in methanol/acetic acid (99:1, v/v, 100 ml) and the mixture was stirred at room temperature for 1 h. Sodium borohydride (4 mg, 0.11 mmol) was added again and the mixture was stirred for 1 h at room temperature then concentrated in vacuo. The residue was dissolved in di-chloromethane, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo to give a white powder identified as the title compound (28 mg, 56%).

reactant | Sodium borohydride | 0.1 mmol, 4 mg | [BH4-].[Na+]
reactant | 1-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperidin-4-one | 0.11 mmol, 50 mg | CC1=C(C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)CCC(=O)N2CCC(CC2)=O | C27H29N5O3
reactant | Sodium borohydride | 0.11 mmol, 4 mg | [BH4-].[Na+]
solvent | methanol acetic acid | 100 ml | CO.C(C)(=O)O
product | 1-(4-Hydroxy-piperidin-1-yl)-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one | 28 mg, 56% | OC1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C27H31N5O3
